US05175183
Preparation of N'-hydroxy-N'-methyl-N-[(thien-2-yl)methyl]urea
To a stirred solution of 2-thiopheneacetic acid (2.00 g, 14.1 mmol) in benzene (70 mL) was added triethylamine (1.424 g, 14.1 mmol) followed by diphenylphosphoryl azide (3.868 g, 14.1 mmol) and the mixture was heated at 90° C. for 1 hour. Then N-methylhydroxylamine hydrochloride (2.36 g, 28.2 mmol) was added as a solution in water (1 mL) containing triethylamine (2.85 g, 28.2 mmol) and the mixture was heated at 90° C. for 18 hours. The reaction was then poured into aqueous saturated NH4Cl (70 mL) and extracted with ethylacetate (3×70 mL). The combined organic extract was dried over MgSO4 and concentrated. The resulting residue was purified by column chromatography (silica gel, ether-hexanes, 1:1) followed by crystallization in ethylaCetate-hexanes and gave the desired product (467 mg).

reactant | 2-thiopheneacetic acid | 14.1 mmol, 2.00 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triethylamine | 14.1 mmol, 1.424 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 14.1 mmol, 3.868 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N-methylhydroxylamine hydrochloride | 28.2 mmol, 2.36 g | Cl.CNO
reactant | triethylamine | 28.2 mmol, 2.85 g | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | 70 mL | [NH4+].[Cl-]
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
solvent | water | 1 mL | O | H2O
product | N'-hydroxy-N'-methyl-N-[(thien-2-yl)methyl]urea | 467 mg | ON(C(NCC=1SC=CC1)=O)C | C7H10N2O2S
